US20010027196A1
6.32 g (39.5 mmol) guanidine carbonate was added portionwise to a stirred suspension of 0.7 g (17.5 mmol, 60% dispersion in mineral oil) sodium hydride in 70 ml DMF under argon at room temperature and stirring continued at 40° C. for 30 minutes. A solution of 7.4 g (29.2 mmol) 2-(3-methyl-furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile in 15 ml DMF was then added dropwise and the reaction mixture heated at 100° C. for 30 minutes. The reaction mixture was then poured onto 2 l ice-water, and the precipitate collected by filtration and dried in vacuo to afford 6.12 g (85%) 2-amino-4-(3-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile as a yellow solid. ES-MS m/e (%): 247 (M+H+, 100).

reactant | guanidine carbonate | 39.5 mmol, 6.32 g | C(O)(O)=O.NC(=N)N
reactant | sodium hydride | 17.5 mmol, 0.7 g | [H-].[Na+]
reactant | 2-(3-methyl-furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile | 29.2 mmol, 7.4 g | CC1=C(OC=C1)C(=O)C(C#N)=C(SC)SC | C11H11NO2S2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-(3-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 6.12 g, 85% | NC1=NC(=C(C(=N1)C=1OC=CC1C)C#N)SC | C11H10N4OS
